US04507299
Step C: 5,6-Dichloro-3-[((1-methylethyl)imino)methyl]pyrazineamine
In 1.2 ml of isopropyl alcohol there was dissolved 2-amino-5,6-dichloro-3-formylpyrazine (0.095 g; 0.0005M) prepared in Step B, after which n-propylamine (32 mg; 0.042 ml; 0.00055M) was added, and the reaction mixture was stirred at room temperature for 20.5 hours. When water was added to the reaction mixture, product precipitated, was filtered, and dried (23 mg). Additional product precipitated, was filtered, and dried (46 mg). The product was recrystallized from ethyl acetate/hexane. Elemental Analysis for C8H10N4Cl2.

reactant | 2-amino-5,6-dichloro-3-formylpyrazine | 0.0005M, 0.095 g | NC1=NC(=C(N=C1C=O)Cl)Cl | C5H3Cl2N3O
reactant | n-propylamine | 0.00055M, 0.042 ml, 32 mg | C(CC)N | C3H9N
reactant | water | O | H2O
reactant | isopropyl alcohol | 1.2 ml | C(C)(C)O | C3H8O
product | 5,6-Dichloro-3-[((1-methylethyl)imino)methyl]pyrazineamine | ClC=1N=C(C(=NC1Cl)N)C=NC(C)C | C8H10Cl2N4
